US04352815
2.85 g of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate are dissolved in a mixture of 10 ml of 98 percent nitric acid and 15 ml of 98 percent sulphuric acid and heated to 120° for 2 hours. Subsequently, the mixture obtained is cooled to room temperature, poured onto ice, neutralized with about 25 percent ammonia and extracted with chloroform. The chloroform extracts are dried over magnesium sulphate and evaporated. After recrystallization of the residue from ethyl acetate, there is obtained ethyl 5,6-dihydro-5-methyl-8-nitro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate of melting point 197°-198°.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | 2.85 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)OCC | C15H15N3O3
reactant | ammonia | N | H3N
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 5,6-dihydro-5-methyl-8-nitro-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxylate | CN1CC=2N(C3=C(C1=O)C=C(C=C3)[N+](=O)[O-])C=NC2C(=O)OCC | C15H14N4O5
